Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Optic Disc Edema
 
Major Surgical or Invasive Procedure:
___: ___ line placement

 
History of Present Illness:
___ with hx of HBV and HIV (last CD4 600, VL undetectable) with 
recent treatment for condyloma ___ ___ syphilis (RPR 1:256) 
treated with IM pencillin G x 2 on ___ who presented for 
routine ophthalmology followup and was found to have optic 
neuritis with a field cut on the right. Patient otherwise is 
asymptomatic with no complaints of visual deficits, pain, or 
headache. He denies any weakness or numbness. After discussion 
with his PCP and given his recent history of syphilis, patient 
was sent to the ED for further evaluation.  
 In the ED, initial vital signs were: 98.6 73 120/69 18 99% RA  
 - Labs were notable for:  
 7.3 > 14.7/43.1 < 222  
 
 137 | 103 | 15  
 -------------< 99  
 3.5 | 24 | 0.9  
 ALT: 35 AST: 31 AP: 173 Tbili: 0.6 Alb: 4.0  
 - Imaging:  
 CT Head w/o Contrast: No acute intracranial hemorrhage. There 
is an equivocal thrombosed cortical vein in the right parietal 
region. No evidence of large vascular territory infarct is seen. 
Consider MRI for further assessment.  
 MRI Orbits/Head: No significant enhancement of the optic nerves 
to suggest active optic neuritis. No evidence of infarction, 
edema, hemorrhage or focal lesion.  
 - The patient was given:  
 ___ 23:24 IV Lorazepam 1 mg  
 - Patient was seen by ID and ophthalmology in the ED and 
recommended MRI and LP prior to administration of empiric 
treatment for neurosyphilis. Patient was then admitted to the 
medicine service.  
 Upon arrival to the floor, patient states that he feels well 
with no complaints of vision loss, pain, or 
headache/weakness/paresthesias. His rash on his scrotum has now 
resolved after abx treatment. Otherwise, no other complaints.  

 
Past Medical History:
 -HBV eAg positive  
 -HIV (last CD4 600, VL undetected)  
 -ADHD  
 -primary syphilis with condyloma ___  

 
Social History:
___
Family History:
Mother with MS.
 
___ Exam:
ADMISSION EXAM
=========================
VITALS: 97.7 113/76 68 18 99%RA  
 GENERAL: Pleasant, well-appearing Caucasian male, A&O x 3 in no 
apparent distress.  
 HEENT: normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, EOM intact. PERRLA, no ___ pupil 
noted  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: no evidence condyloma ___  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

DISCHARGE EXAM
===========================
VS - Tmax 97.9, HR 58-61, BP 110-113/69-72, RR 18, 98% RA  
General:  well appearing, NAD
HEENT: Pupils equally round and reactive to light and 
accommodation. Sclera anicteric
Neck: no JVD, no LAD
CV: rrr, no m/r/g
Lungs: CTAB, breathing comfortably  on RA
Abdomen: soft, nontender, nondistended, no HSM appreciated  
Ext: warm and well perfused, no edema  
Neuro: normal sensation x4 extremities, strength ___ x4 
extremities, CN's intact, A+Ox3
 
Pertinent Results:
ADMISSION LABS
===========================
___ 08:10PM BLOOD WBC-7.3 RBC-5.26 Hgb-14.7 Hct-43.1 MCV-82 
MCH-27.9 MCHC-34.1 RDW-13.1 RDWSD-38.5 Plt ___
___ 08:10PM BLOOD Neuts-39.3 ___ Monos-5.7 Eos-4.5 
Baso-0.7 Im ___ AbsNeut-2.88 AbsLymp-3.64 AbsMono-0.42 
AbsEos-0.33 AbsBaso-0.05
___ 08:10PM BLOOD Glucose-99 UreaN-15 Creat-0.9 Na-137 
K-3.5 Cl-103 HCO3-24 AnGap-14
___ 08:10PM BLOOD ALT-35 AST-31 AlkPhos-173* TotBili-0.6
___ 08:10PM BLOOD Albumin-4.0

DISCHARGE LABS
===========================
___ 08:30AM BLOOD WBC-5.9 RBC-5.32 Hgb-14.8 Hct-44.8 MCV-84 
MCH-27.8 MCHC-33.0 RDW-13.6 RDWSD-41.1 Plt ___
___ 08:30AM BLOOD Glucose-91 UreaN-10 Creat-0.9 Na-139 
K-4.2 Cl-104 HCO3-27 AnGap-12
___ 08:30AM BLOOD Calcium-9.6 Phos-3.1 Mg-2.2

MICROBIOLOGY
==========================
CSF culture pending on discharge
CSF VDRL pending on discharge
Bartonella pending on discharge
Blood culture pending on discharge
Lyme serology pending on discharge
Repeat CD4 count pending on discharge

RPR 1:256 (was 1:256 on ___ treponemal confirmatory test 
pending
Hep B Viral Load ___: undetectable
HIV VL ___: undetectable
CD4 count ___: 612 ___ records)

REPORTS
============================
MRI Brain/Orbit ___. No abnormal signal or enhancement of the optic nerves to 
suggest optic 
neuritis. 
2. No evidence of acute infarct. 
3. Previously described possible thrombosed cortical vein on CT 
examination is a developmental venous anomaly. 

CT Head ___
No acute intracranial hemorrhage.  There is an equivocal 
thrombosed cortical vein in the right parietal region.  No 
evidence of large vascular territory infarct is seen.  Consider 
MRI for further assessment.  Please note that MRI is more 
sensitive and the more appropriate study in detecting optic 
neuritis.

CXR ___
Right-sided PICC line tip is in the mid SVC. 
 
Brief Hospital Course:
___ y/o M with a h/o well controlled HIV, Hep B, and recently 
treated syphilis (condyloma ___, who presents as a referral 
for ophtho for concern for optic neuritis given optic disc edema 
noted on exam.

ACTIVE ISSUES
==========================
# Optic Disc Edema: Pt has been asymptomatic, but routine ophtho 
exam noted the finding of optic disc edema. MRI brain was 
without radiologic evidence of optic neuritis. CSF showed normal 
protein and mild pleocytosis. He had a normal neurologic exam. 
DDx includes neurosyphilis, Lyme, Bartonella, and less likely MS 
___ has a FHx of MS, but this would require multiple lesions, 
multiple deficits, over time). The most likely diagnosis is 
optic disc edema in the setting of syphillis. Pt was recently 
treated for condyloma ___ with IM PCN. RPR this admission is 
1:256, confirmatory trepnemal test pending but had been positive 
in the past. Ophthalmology and Infectious Disease were 
consulted. Repeat Ophthalmology exam was done ___. ID 
recommended empiric treatment with 4 million units of IV PCN, 
q4h, for 10 days. PICC line access was obtained, with home 
infusion services arranged. Studies pending on discharge were 
CSF VDRL, CSF culture, Bartonella, Lyme, EBV CSF PCR.

CHRONIC ISSUES
===========================
# HIV, Hepatitis B: HIV managed at ___, Hepatitis B managed 
at ___. Per ___ records, last HIV VL 
undetectable, last CD4 612. Last Hep B viral load undetectable 
(___). Continued home Stribild. Repeat CD4 pending on 
discharge.

# Insomnia: Ambien 5mg QHS PRN, home med, was continued.

TRANSITIONAL ISSUES
===========================
- Patient will complete a 10 day course of IV Pencillin, 4 
million units every 4 hours, which will be completed at home, 
with a pump, via a PICC line. Last day ___.
- For laboratory monitoring, please check CBC with differential, 
BUN, Cr, Electrolytes, and LFTs. This is for medication 
monitoring while taking IV Penicillin. This needs to be done 
once, on ___.
- Studies pending on discharge: CSF VDRL, Bartonella panel, Lyme 
panel, CSF EBV, repeat CD4 count. The patient and PCP are aware 
that these studies are pending on discharge.
- CT scan finding showed an "equivocal thrombosed cortical 
vein," but on MRI this was described as a "developmental venous 
anomaly." Discussed with ___, and this is certainly a 
developmental
anomaly, given the superior nature of MRI in diagnosing said 
lesions.
- If no improvement of optic disk edema is found, ___ consider 
Neurology referral for further workup. Of note, the patient has 
a family history of multiple sclerosis in his mother.
- Ophthalmology follow up scheduled for ___
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Stribild 1 TAB PO DAILY 
2. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
3. Viagra (sildenafil) 100 mg oral PRN sexual activity 

 
Discharge Medications:
1. Stribild 1 TAB PO DAILY 
2. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
3. Viagra (sildenafil) 100 mg ORAL PRN sexual activity 
4. Penicillin G Potassium 4 Million Units IV Q4H 
RX *penicillin G pot in dextrose 2 million unit/50 mL 4 million 
units IV every 4 hours Disp #*100 Intravenous Bag Refills:*0
5. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth q8h:PRN Disp #*8 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hyperemic edematous optic nerve head OD concerning for 
syphilis

Secondary: HIV, Hepatitis B, Syphilis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___. You admitted to us 
after your ophthalmologists saw concerning findings on your 
visual exam. The eye doctors here noted that you have some 
swelling of your optic disk. The concern is that these findings 
could be due to syphilis. Because of this, you were seen by our 
infectious disease team. Because of this, you will be treated 
with intravenous penicillin for 10 total days. You will follow 
up with your eye doctors in ___.

There are some blood tests that are still pending on discharge. 
If any of these come back concerning, we will call you and let 
you know. It is important that you follow up with your primary 
care doctor. See below for your appointments.

It was a pleasure caring for you, and if you have any questions 
do not hesitate to ask.
- ___ Medicine Team
 
Followup Instructions:
___